US04346088
4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-phenylimino-4-thiazoline hydrobromide
10.1 g (0.02 mole) of 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-phenyliminothiazolidin-4-ol hydrobromide in 80 ml of glacial acetic acid are heated to the boil over a period of 20 minutes. After cooling, crystallization is brought to completion by adding about 150 ml of diisopropyl ether, the mixture is stirred for a further one hour at room temperature and the product is filtered off. Colorless crystals; melting point 258°-260° C. (with decomposition).

reactant | 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-phenyliminothiazolidin-4-ol hydrobromide | 0.02 mole, 10.1 g | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1=CC=CC=C1)C)O)S(N(C)C)(=O)=O
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-phenylimino-4-thiazoline hydrobromide | Br.ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=CC=CC=C1)C)S(N(C)C)(=O)=O | InChI=1S/C18H18ClN3O2S2.BrH/c1-21(2)26(23,24)17-11-13(9-10-15(17)19)16-12-25-18(22(16)3)20-14-7-5-4-6-8-14;/h4-12H,1-3H3;1H
